US06809097B1
A mixture of 5-((4-cyano-3-(3-morpholinopropoxy)anilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione(2.96 g, 7 mmol) in DOWTHERM A, (trade mark of Fluka Chemie AG), (100 ml) was heated at 250° C. for 30 minutes. The mixture was allowed to cool, hexane was added and the solvent was decanted from the resulting gum. The residue was triturated with hexane to give crude 6-cyano-7-(3-morpholinopropoxy)-1,4-dihydroquinolin-4-one(1.0 g) as a brown solid. A portion of this product (380 mg, 1.3 mmol) was added to thionyl chloride (10 ml)and DMF (0.1 ml) and the mixture was heated at reflux for 3 hours. The volatiles were removed by evaporation and the residue was azeotroped with toluene (×3). 2-Fluoro-5-hydroxy-4-methylaniline (184 mg, 1.3 mmol), (prepared as described for the starting material in Example 1), in isopropanol (10 ml) was added to the residue, and the mixture was heated at reflux for 3 hours. The mixture was allowed to cool, the solid product was collected by filtration and recrystallised twice from methylene chloride/methanol/ethyl acetate to give 6-cyano-4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(3-morpholinopropoxy)quinoline (05 mg, 3% overall).

reactant | 5-((4-cyano-3-(3-morpholinopropoxy)anilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 7 mmol, 2.96 g | C(#N)C1=C(C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=C1)OCCCN1CCOCC1 | C21H25N3O6
reactant | hexane | CCCCCC | C6H14
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-Fluoro-5-hydroxy-4-methylaniline | 1.3 mmol, 184 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | DOWTHERM A | 100 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 6-cyano-4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(3-morpholinopropoxy)quinoline | 3% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCN1CCOCC1)NC1=C(C=C(C(=C1)O)C)F | C24H25FN4O3
